US03952056
A solution of 484 g (4 mole) of 2,6-xylidine and 490 g (2 mole) of p-toluenesulphonic acid-(1-methoxyprop-2-yl)-ester in 1000 ml of toluene is refluxed for 25 hours. The reaction mixture is cooled, then made alkaline and diluted with ether. The organic phase is repeatedly washed with water and dried with magnesium sulphate. Evaporation of the solvent and subsequent distillation of the residue yields the desired N-(1-methoxyprop-2-yl)-2,6-xylidine with a boiling point of 70°-72°C/0.4 Torr.

reactant | 2,6-xylidine | 4 mole, 484 g | NC=1C(=CC=CC1C)C | C8H11N
reactant | p-toluenesulphonic acid-(1-methoxyprop-2-yl)-ester | 2 mole, 490 g | COCC(C)OS(=O)(=O)C1=CC=C(C=C1)C | C11H16O4S
solvent | toluene | 1000 ml | C1(=CC=CC=C1)C | C7H8
solvent | ether | CCOCC | C4H10O
product | N-(1-methoxyprop-2-yl)-2,6-xylidine | COCC(C)NC=1C(=CC=CC1C)C | C12H19NO
